US05530019
Step 4: Preparation of 3-[1-(4-isobutylphenyl)pentyloxy]propionic acid
Chromium(VI) oxide was dissolved in an aqueous solution of sulfuric acid, and diluted with water to give a Jones reagent. To a solution of 3-[1-(4-isobutylphenyl)pentyloxy]propanol in acetone was added the obtained Jones reagent at room temperature until an orange-brown color persisted. After 10 minutes, 2-propanol was added to the reaction mixture. Ethyl acetate was added thereto, and the mixture was washed with water and brine, dried over magnesium sulfate and concentrated. Silica gel column chromatography of the concentrate afforded the object compound.

reactant | 3-[1-(4-isobutylphenyl)pentyloxy]propanol | C(C(C)C)C1=CC=C(C=C1)C(CCCC)OCCCO | C18H30O2
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 2-propanol | CC(C)O | C3H8O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
product | 3-[1-(4-isobutylphenyl)pentyloxy]propionic acid | C(C(C)C)C1=CC=C(C=C1)C(CCCC)OCCC(=O)O | C18H28O3
